US04579947
1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-cyclohexylthiourea
1-(3-Aminopropyl)-4-(4-chlorobenzyl)piperazine (5.36 g; 20 mmole) was reacted with cyclohexyl isothiocyanate (2.82 g; 20 mmole) in methylene chloride (35 ml) for two hours in the manner described in Example 17. The crude product was isolated and chromatographed on silica gel in analogous manner. The product, on recrystallization from ethanol, yielded the title compound (2.98 g; 36% yield) as colorless crystals, m.p. 127°-128° C.

reactant | 1-(3-Aminopropyl)-4-(4-chlorobenzyl)piperazine | 20 mmole, 5.36 g | NCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl | C14H22ClN3
reactant | cyclohexyl isothiocyanate | 20 mmole, 2.82 g | C1(CCCCC1)N=C=S | C7H11NS
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | 1-{3-[4-(4-Chlorobenzyl)piperazin-1-yl]propyl}-3-cyclohexylthiourea | 2.98 g, 36% yield | ClC1=CC=C(CN2CCN(CC2)CCCNC(=S)NC2CCCCC2)C=C1 | C21H33ClN4S
